US07582773B2
Step 2: Synthesis of 9-Benzyl-6-bromo-2,3,4,9-tetrahydro-1H-carbazole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 6-bromo-2,3,4,9-tetrahydro-1H-carbazole (1.876 g, 7.5 mmol) was reacted with k-t-butoxide (0.884 g, 7.875 mmol) and benzyl bromide (1.352 g, 7.875 mmol) in DMF (20 ml) to give the product (2.225 g, 6.539 mmol, 87%) as an oily, yellow solid. 1H NMR (DMSO-d6) δ 1.74-1.83 (m, 4H), 2.61-2.64 (m, 4H), 5.32 (s, 2H), 6.99 (d, J=7.6 Hz, 2H), 7.11 (dd, 1.8, 8.7 Hz, 1H), 7.21 (t, J=7.2 Hz, 1H), 7.27 (t, J=7.3 Hz, 2H), 7.33 (d, J=8.6 Hz, 1H), 7.55 (d, J=1.5 Hz, 1H); [ESI(+)], m/z 340/342 (M+H)+.

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazole | 7.5 mmol, 1.876 g | BrC=1C=C2C=3CCCCC3NC2=CC1 | C12H12BrN
reactant | benzyl bromide | 7.875 mmol, 1.352 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 9-Benzyl-6-bromo-2,3,4,9-tetrahydro-1H-carbazole | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2CCCCC12)Br | C19H18BrN
